US09278973B2
To a solution of 3-(4-fluorophenyl)-1H-1,2,4-triazol-5-amine (120 mg, 0.67 mmol) in diphenyl ether (2 ml) was added ethyl 3-(1-acetyl-1H-indazol-5-yl)-3-oxopropanoate (650 mg, 2.36 mmol) and TsOH (5.76 mg, 0.03 mmol), and the resulting mixture was stirred for 5 h at 170° C. The reaction was then quenched by the addition of ethyl ether (8 ml). The solids were collected by filtration to afford 5-(1-acetyl-1H-indazol-5-yl)-2-(4-fluorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a light yellow crude solid (100 mg, crude).

reactant | 3-(4-fluorophenyl)-1H-1,2,4-triazol-5-amine | 0.67 mmol, 120 mg | FC1=CC=C(C=C1)C1=NNC(=N1)N | C8H7FN4
reactant | ethyl 3-(1-acetyl-1H-indazol-5-yl)-3-oxopropanoate | 2.36 mmol, 650 mg | C(C)(=O)N1N=CC2=CC(=CC=C12)C(CC(=O)OCC)=O | C14H14N2O4
reactant | TsOH | 0.03 mmol, 5.76 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | diphenyl ether | 2 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 5-(1-acetyl-1H-indazol-5-yl)-2-(4-fluorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | C(C)(=O)N1N=CC2=CC(=CC=C12)C=1NC=2N(C(C1)=O)N=C(N2)C2=CC=C(C=C2)F | C20H13FN6O2
